US04066659
A mixture of 10.0 g of 1-phenacyl-2-dimethylamino-3,4-dihydronaphthalene hydrobromide and 4.1 g of 5-aminosalicylic acid in 50 ml of acetic acid is vigorously stirred at 75° C for 4.5 hours. The reaction mixture is then cooled to 20° C, filtered and the precipitate collected, washed successively with one 20 ml portion of acetic acid and five 20 ml portions of hexane and then dried for 20 hours under vacuum to give 3-(3-carboxy-4-hydroxyphenyl)-4,5-dihydro-2-phenylbenz[e]indole.

reactant | 1-phenacyl-2-dimethylamino-3,4-dihydronaphthalene hydrobromide | 10.0 g | Br.C(C(=O)C1=CC=CC=C1)C1=C(CCC2=CC=CC=C12)N(C)C
reactant | 5-aminosalicylic acid | 4.1 g | NC1=CC=C(C(C(=O)O)=C1)O | C7H7NO3
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 3-(3-carboxy-4-hydroxyphenyl)-4,5-dihydro-2-phenylbenz[e]indole | C(=O)(O)C=1C=C(C=CC1O)N1C(=CC=2C3=C(CCC12)C=CC=C3)C3=CC=CC=C3 | C25H19NO3
